US07964724B2
A solution of hydrochloric acid (4.0 M, 10 mL) in dioxane was added to a solution of tert-butyl 4-(2,2,2-trifluoroethyl)piperazine-1-carboxylate (0.736 g, 2.74 mmol) in dioxane (5 mL). The reaction mixture was stirred until analysis by thin layer chromatography indicated completion of reaction (approx. 3 h). The volatiles were evaporated and the residue was dried under vacuum to yield 1-(2,2,2-trifluoroethyl)piperazine dihydrochloride (0.631 g, 95%) as a white solid.

reactant | hydrochloric acid | 4.0 M, 10 mL | Cl | ClH
reactant | tert-butyl 4-(2,2,2-trifluoroethyl)piperazine-1-carboxylate | 2.74 mmol, 0.736 g | FC(CN1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C11H19F3N2O2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(2,2,2-trifluoroethyl)piperazine dihydrochloride | 0.631 g, 95% | Cl.Cl.FC(CN1CCNCC1)(F)F | InChI=1S/C6H11F3N2.2ClH/c7-6(8,9)5-11-3-1-10-2-4-11;;/h10H,1-5H2;2*1H
